US06747025B1
Preparation of 3-Hydroxymethylene-1,3-dihydro-indol-2-one
To a slurry of oxindole (1.33 g, 10.0 mmol) and ethyl formate (2.42 mL, 30.0 mmol) was added 4.85 mL of 21 wt. % NaOEt in EtOH. The thick solution was stirred for 30 min at room temperature and then heated at reflux for 30 min. The solution was acidified to pH=3 with 10% aqueous HCl and 5 mL H2O was added. The solid which formed was filtered and rinsed with H2O to give the title compound (1.34 g, 83%) as a pale yellow solid.

reactant | oxindole | 10.0 mmol, 1.33 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | ethyl formate | 30.0 mmol, 2.42 mL | C(=O)OCC | C3H6O2
reactant | NaOEt | CC[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | CCO | C2H6O
solvent | H2O | 5 mL | O | H2O
product | 3-Hydroxymethylene-1,3-dihydro-indol-2-one | 1.34 g, 83% | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
